US06143764
6,7-Dimethoxy-4-(3-methoxyphenylthio)quinoline [117]
4-Chloro-6,7-dimethoxyquinoline (50 mg) and commercially available 3-methoxybenzenethiol (77 mg) were mixed and stirred at 180° C. for 30 seconds. Purification was carried out in the same manner as described in Example 18 to obtain 72 mg of the title compound (yield: 100%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 50 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 3-methoxybenzenethiol | 77 mg | COC=1C=C(C=CC1)S | C7H8OS
product | 6,7-Dimethoxy-4-(3-methoxyphenylthio)quinoline | 72 mg, yield: 100% | COC=1C=C2C(=CC=NC2=CC1OC)SC1=CC(=CC=C1)OC | C18H17NO3S
